US06368608B1
(b) Preparation of methyl 2-hydroxy-4-[3-oxo-3-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-1-propynyl]benzoate
Following the basic procedure of Example 1(b), by reacting 2.4 g (0.01 mol) of 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthoyl chloride with 2.5 g (0.01 mol) of methyl 2-hydroxy-4-trimethylsilylethynylbenzoate, 2.9 g (74%) of the expected ester, with a melting point of 189°-190° C., were recovered.

reactant | 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthoyl chloride | 0.01 mol, 2.4 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)C(=O)Cl)C | C15H19ClO
reactant | methyl 2-hydroxy-4-trimethylsilylethynylbenzoate | 0.01 mol, 2.5 g | OC1=C(C(=O)OC)C=CC(=C1)C#C[Si](C)(C)C | C13H16O3Si
product | methyl 2-hydroxy-4-[3-oxo-3-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-1-propynyl]benzoate | OC1=C(C(=O)OC)C=CC(=C1)C#CC(C1=CC=2C(CCC(C2C=C1)(C)C)(C)C)=O | C25H26O4
